US08048897B2
(2) Synthesis of 1-Benzyloxyphenyl-2-(4-cyclopropyl-benzyl)benzene
In a nitrogen stream, triethylsilane (0.73 mL, 4.6 mmol) and a boron trifluoride-diethyl ether complex (0.5 mL, 4.0 mmol) were added to a solution of (2-benzyloxyphenyl)-(4-cyclopropylphenyl)methanol (1.3 g, 4.0 mmol) in acetonitrile (7 mL) at −40° C. and the mixture solution was stirred at the same temperature for 1.5 hours and furthermore at 0° C. for 30 minutes. Water was added thereto and the mixture was extracted with methylene chloride. The organic layer was washed with a saturated sodium chloride aqueous solution and dried (anhydrous magnesium sulfate), and then the solvent was distilled under reduced pressure. The obtained residue was purified by silica gel column chromatography [developing solution=ethyl acetate:n-hexane (1:7)] to obtain the title compound (1.2 g, 95%).

reactant | triethylsilane | 4.6 mmol, 0.73 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | (2-benzyloxyphenyl)-(4-cyclopropylphenyl)methanol | 4.0 mmol, 1.3 g | C(C1=CC=CC=C1)OC1=C(C=CC=C1)C(O)C1=CC=C(C=C1)C1CC1 | C23H22O2
reactant | Water | O | H2O
solvent | acetonitrile | 7 mL | C(C)#N | C2H3N
product | 1-Benzyloxyphenyl-2-(4-cyclopropyl-benzyl)benzene | 1.2 g, 95% | C(C1=CC=CC=C1)OC1(CC=CC=C1)C1=C(C=CC=C1)CC1=CC=C(C=C1)C1CC1 | C29H28O
